US09056859B2
Step B: (1-oxo-4-propyl-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde
To the flask charged with 5-allyl-4-propyl-2-benzofuran-1(3H)-one (60 mg) was added methanol (10 mL). The solution was chilled to −78° C. before ozone was bubbled through. Ozone was stopped when the solution turned light blue. Excess ozone was removed by bubbling nitrogen through the solution, which was followed by addition of dimethyl sulfide (170 mg, 2.8 mmol). The mixture was allowed to warm to RT. The desired product, (1-oxo-4-propyl-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde, was purified by silica gel chromatography.

reactant | 5-allyl-4-propyl-2-benzofuran-1(3H)-one | 60 mg | C(C=C)C1=C(C2=C(C(OC2)=O)C=C1)CCC | C14H16O2
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 2.8 mmol, 170 mg | CSC | C2H6S
solvent | methanol | 10 mL | CO | CH4O
product | (1-oxo-4-propyl-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | O=C1OCC2=C1C=CC(=C2CCC)CC=O | C13H14O3
